.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 132-09SM
* Inductance = #VALUE!
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 132-09SM_freq port1 port2 PARAMS: Cpar=0.1774pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=1.921
+ R2=0.2452
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=307.5
+ L_EL=76.06
+ L_F0=725.2E6
+ PkZ=0
.ends 132-09SM_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 132-10SM
* Inductance = #VALUE!
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 132-10SM_freq port1 port2 PARAMS: Cpar=0.2105pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=2.221
+ R2=0.3273
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=336.5
+ L_EL=77.28
+ L_F0=654.7E6
+ PkZ=0
.ends 132-10SM_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 132-11SM
* Inductance = #VALUE!
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 132-11SM_freq port1 port2 PARAMS: Cpar=0.252pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=1.963
+ R2=0.384
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=363.2
+ L_EL=82.64
+ L_F0=646.3E6
+ PkZ=0
.ends 132-11SM_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 132-12SM
* Inductance = #VALUE!
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 132-12SM_freq port1 port2 PARAMS: Cpar=0.2103pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=2.341
+ R2=0.4527
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=443
+ L_EL=86.95
+ L_F0=638.5E6
+ PkZ=0
.ends 132-12SM_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 132-13SM
* Inductance = #VALUE!
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 132-13SM_freq port1 port2 PARAMS: Cpar=0.1789pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=8.285
+ R2=0.5557
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=515.7
+ L_EL=94.73
+ L_F0=664.5E6
+ PkZ=0
.ends 132-13SM_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 132-14SM
* Inductance = #VALUE!
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 132-14SM_freq port1 port2 PARAMS: Cpar=0.2089pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=10
+ R2=0.6117
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=511
+ L_EL=91.76
+ L_F0=592.9E6
+ PkZ=0
.ends 132-14SM_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 132-15SM
* Inductance = #VALUE!
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.92GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 132-15SM_freq port1 port2 PARAMS: Cpar=0.2133pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=9.601
+ R2=0.6547
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=516.5
+ L_EL=79.87
+ L_F0=471.6E6
+ PkZ=0
.ends 132-15SM_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 132-16SM
* Inductance = #VALUE!
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.85GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 132-16SM_freq port1 port2 PARAMS: Cpar=0.2071pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=9.309
+ R2=0.8173
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=579.4
+ L_EL=77.34
+ L_F0=411.7E6
+ PkZ=0
.ends 132-16SM_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 132-17SM
* Inductance = #VALUE!
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.72GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 132-17SM_freq port1 port2 PARAMS: Cpar=0.1808pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=8.766
+ R2=1
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=650.3
+ L_EL=78.17
+ L_F0=378.2E6
+ PkZ=0
.ends 132-17SM_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 132-18SM
* Inductance = #VALUE!
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.67GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 132-18SM_freq port1 port2 PARAMS: Cpar=0.2221pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=8.411
+ R2=1.091
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=645.7
+ L_EL=87.64
+ L_F0=381E6
+ PkZ=0
.ends 132-18SM_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 132-19SM
* Inductance = #VALUE!
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.67GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 132-19SM_freq port1 port2 PARAMS: Cpar=0.1823pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=10.56
+ R2=1.276
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=756.7
+ L_EL=93.23
+ L_F0=408.1E6
+ PkZ=0
.ends 132-19SM_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 132-20SM
* Inductance = #VALUE!
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.55GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 132-20SM_freq port1 port2 PARAMS: Cpar=0.213pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=13.05
+ R2=1.476
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=722.8
+ L_EL=88.9
+ L_F0=341.4E6
+ PkZ=0
.ends 132-20SM_freq

